US05142056
A. 3-(3-Pyridinyl)propanoic Acid
A mixture of 3 g (20 mmol) of 3-(3-pyridinyl)acrylic acid and 0.3 g of 10% palladium on carbon in 150 ml of ethyl acetate was shaken under 4 atmospheres of hydrogen for 24 h. After filtration, the resulting solution was concentrated in vacuo to provide the desired compound.

reactant | 3-(3-pyridinyl)acrylic acid | 20 mmol, 3 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 3-(3-Pyridinyl)propanoic Acid | N1=CC(=CC=C1)CCC(=O)O | C8H9NO2
